Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.7071117652590001
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-2.9375918175300004
[C:5]#[C:6][H:7].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7],-5.02661516978
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C:5][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],4.07991283132
[H:7].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8]\[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.01590962166
[C:1]=[C:2]([C:3][O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:4]>>[C:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.99302731369
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.20814326072
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[C:4](#[C:5][C:6]([H:7])[H:8])[O:9][H:10].[H:1][C:2]#[C:3],5.38899952584
[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-5.68296276459
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11].[H:1][C:2],8.496500638639999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:1]=[C:2]([H:3])[H:4],0.651064030001
[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-4.45265157476
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:8],1.21506373769
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:6]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.87700797976
[H:1][C:2]([H:3])[O:4][C:5]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.6837994021399998
[H:3].[O:1]=[C:2]=[C:4]([O:5])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],-3.6329999929
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-4.15939953494
[O:1][C:2]#[C:3][C:4](=[O:5])[H:6]>>[C:2]#[C:3][C:4](=[O:5])[H:6].[O:1],7.2630017326
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-4.51829389712
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][O:4][H:5],1.7703398832
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9].[H:1][C:2],8.53317116575
[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-8.280076736189999
[C:1]#[C:2].[O:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],-4.77823734427
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.8421894486
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.80136300501
[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]#[C:3].[O:4]=[C:5]=[C:6]([H:7])[H:8],0.888583681751
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.9645574038
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.794692030259999
[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8]>>[C:5]#[C:6][O:7][H:8].[O:1][C:2]#[C:3][H:4],5.43932737696
[C:1]#[C:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7]([H:8])[O:9][H:10],2.74028520031
